US07691843B2
To a stirred solution of 1-(5-bromo-2,3-dimethoxyphenyl)propan-1-ol (400 mg, 1.45 mmol) in DCM (10 mL) at −78° C. was added DAST (0.58 mL, 4.36 mmol) and stirred the reaction for 10 min at −78° C., then warmed to 0° C. for 2 h. The reaction was quenched with water and saturated aqueous NH4Cl (100 mL), extracted with EtOAc, dried over NasSO4 and concentrated in vacuo. The crude product was purified by flash column chromatography on silica gel using 30% EtOAc in hexanes as an eluent to furnish 5-bromo-1-(1-fluoropropyl)-2,3-dimethoxybenzene (80%).

reactant | 1-(5-bromo-2,3-dimethoxyphenyl)propan-1-ol | 1.45 mmol, 400 mg | BrC=1C=C(C(=C(C1)C(CC)O)OC)OC | C11H15BrO3
reactant | DAST | 4.36 mmol, 0.58 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-1-(1-fluoropropyl)-2,3-dimethoxybenzene | 80% | BrC=1C=C(C(=C(C1)C(CC)F)OC)OC | C11H14BrFO2
